US06620842B2
1-[3-(3-Methylbut-2-Enyloxy)Xanthen-9-one-4-yl]-3-(3-Methoxy-Phenyl)-Propen-1-one (See Accompanying Formula drawing VIB 177).
A solution of KOH 50% (3 ml) is added to an equimolar solution of 3-(3-methylbut -2-enyloxy)4acetylxanthen-9one (2.4 g, 0.0075 mol) and 3-methoxy-benzaldehyde (1.01 g, 0.0075 mol) in ethanol 95%, the addition being performed under energetic stirring at room temperature. The reaction is left under stirring for one night and then diluted with water and acidified. The precipitate is separated by filtration and dried under vacuum. The compound is crystallized with methanol to give 1.9 g of product m.p. 134-36° C., 1H-NMR (CDCl3) δ: 1.69 (s, 3H); 1.72 (s, 3H); 3.84 (s, 3H); 4.71 (d, 2H, J=6.5); 5.38-5.40 (m, 1H); 6.95-6.98 (m, 1H); 7.05-7.15 (m, 2H); 7.08 (d, 1H, J=8.8 Hz); 7.09 (d, 1H, J=16 Hz); 7.23-7.42 (m, 4H); 7.65-7.72 (m, 1H); 8.32-8 (d, 1H. J=8.8 Hz); 8.42(d, 1H. J=8.9 Hz).

reactant | KOH | 3 ml | [OH-].[K+]
reactant | 3-(3-methylbut -2-enyloxy)4acetylxanthen-9one | 0.0075 mol, 2.4 g | CC(=CCOC=1C=CC=2C(C3=CC=CC=C3OC2C1C(C)=O)=O)C | C20H18O4
reactant | 3-methoxy-benzaldehyde | 0.0075 mol, 1.01 g | COC=1C=C(C=O)C=CC1 | C8H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-[3-(3-Methylbut-2-Enyloxy)Xanthen-9-one-4-yl]-3-(3-Methoxy-Phenyl)-Propen-1-one | 1.9 g | CC(=CCOC=1C=CC=2C(C3=CC=CC=C3OC2C1C(C=CC1=CC(=CC=C1)OC)=O)=O)C | C28H24O5
